US04022900
5-Amino-2-n-propyl-1,2,3,4-tetrahydroisoquinoline hydrobromide (10 g) prepared as in Example 5 was suspended in dry benzene (100 ml) and 0.5 g dry potassium bicarbonate was added. A 0.1 mole excess of 3,4-dimethoxybenzoyl chloride was dissolved in dry benzene (100 ml) and this solution was added to the solution of the tetrahydroisoquinoline. The mixture was refluxed for 5 days. The precipitate formed at the end of this period was collected by filtration and washed with 10% sodium carbonate solution followed by water. The washings were discarded and the remaining solid was purified by recrystallization from ethanol to yield 6.7 g of 5-(3,4-dimethoxybenzamido)-2-n-propyl-1,2,3,4-tetrahydroisoquinoline as a white powder, m.p. 146°-147° C.

reactant | 5-Amino-2-n-propyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | 10 g | Br.NC1=C2CCN(CC2=CC=C1)CCC
reactant | potassium bicarbonate | 0.5 g | C([O-])(O)=O.[K+]
reactant | 3,4-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 5-(3,4-dimethoxybenzamido)-2-n-propyl-1,2,3,4-tetrahydroisoquinoline | 6.7 g | COC=1C=C(C(=O)NC2=C3CCN(CC3=CC=C2)CCC)C=CC1OC | C21H26N2O3
